US05663200
44b) 3,4-Methylenedioxybenzyl iodide
11.65 g 3,4-methylenedioxybenzyl chloride in 128 ml of abs. acetone are treated with 49.7 g of sodium iodide, and this mixture is stirred at RT for 2.5 h under argon and while excluding light. The reaction mixture is diluted with 1.5 l of ether, and this mixture is washed with 10% sodium thiosulfate solution (600 ml) and saline. The title compound is obtained after drying over sodium sulfate and removing the solvent. It is recrystallized from ether/hexane. m.p.: 51° C. TLC Rf (hexane:ethyl acetate, 4:1)=0.43. 1H-NMR (360 MHz, CDCl3): 6.93-6.77(m, 2H), 6.77-6.64(m,1H), 5.95(s, 2H), 4.44 (s,2H).

reactant | 3,4-methylenedioxybenzyl chloride | 11.65 g | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
reactant | acetone | CC(=O)C | C3H6O
reactant | sodium iodide | 49.7 g | [I-].[Na+]
solvent | ether | 1.5 l | CCOCC | C4H10O
product | 3,4-Methylenedioxybenzyl iodide | C1OC=2C=C(CI)C=CC2O1 | C8H7IO2
